US06943159B1
To a stirred solution of piperazine (4.3 g; 50 mmol) in CH2Cl2 (50 ml) at +5° C. was added a solution of CH3SO2Cl (4.25 ml; 55 mmol) in CH2Cl2 (15 ml). The thick reaction mixture was stirred at rt. for 12 h, added CH2Cl2 (100 ml), and extracted with 1 M HCl (300 ml). A precipitate formed in the aqueous phase was filtered of to give 2.66 g of N-mesylpiperazinium chloride (32%).

reactant | piperazine | 50 mmol, 4.3 g | N1CCNCC1 | C4H10N2
reactant | CH3SO2Cl | 55 mmol, 4.25 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 15 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | N-mesylpiperazinium chloride | 2.66 g, 32% | [Cl-].S(=O)(=O)(C)[NH+]1CCNCC1 | InChI=1S/C5H12N2O2S.ClH/c1-10(8,9)7-4-2-6-3-5-7;/h6H,2-5H2,1H3;1H
